US04150026
Preparation of 1,2-Benzisothiazolin-3-one manganese(II)chloride
To a solution of 1.26 g (0.01 mol) of anhydrous manganese chloride was added 4.5 g (0.03 mol) of 1,2-benzisothiazolin in 30 ml of water. The solution was concentrated to give a tan colored solid. The solid was thoroughly washed with dry acetone, filtered and dried at room temperature to yield 3.47 g (77%) of product, m.p. >250° C.

reactant | manganese chloride | 0.01 mol, 1.26 g | [Cl-].[Mn+2].[Cl-]
reactant | 1,2-benzisothiazolin | 0.03 mol, 4.5 g | S1N=CC2=C1C=CC=C2 | C7H5NS
reactant | water | 30 ml | O | H2O
product | 1,2-Benzisothiazolin-3-one manganese(II)chloride | 3.47 g, 77% | [Cl-].[Mn+2].S1NC(C2=C1C=CC=C2)=O.[Cl-] | InChI=1S/C7H5NOS.2ClH.Mn/c9-7-5-3-1-2-4-6(5)10-8-7;;;/h1-4H,(H,8,9);2*1H;/q;;;+2/p-2
